US07888364B2
255 mg of methyl 4-(bromomethyl)-2-methylbenzoate was reacted via Procedure O to give methyl 2-methyl-4-(methylsulfonylmethyl)benzoate. 250 mg of methyl 2-methyl-4-(methylsulfonylmethyl)benzoate was then hydrolyzed upon heating to 45° C. for 1 hour via Procedure M to give 2-methyl-4-(methylsulfonylmethyl)benzoic acid. 202 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 2-methyl-4-(methylsulfonylmethyl)benzoic acid via Procedure G. The crude product was purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methyl-4-(methylsulfonylmethyl)benzamide. MS (Q1) 415 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 202 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 2-methyl-4-(methylsulfonylmethyl)benzoic acid | CC1=C(C(=O)O)C=CC(=C1)CS(=O)(=O)C | C10H12O4S
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methyl-4-(methylsulfonylmethyl)benzamide | ClC1=C(C=C(C=C1)NC(C1=C(C=C(C=C1)CS(=O)(=O)C)C)=O)C1=NC=CC=C1 | C21H19ClN2O3S
